2162-03-08 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - remained asymptomatic
   - received dilt 10 mg IV x 1 then 20 mg IV x 1 during the day for RVR
   episodes (always with stable BP); got home dilti XR 240 mg PO at 2 p.m.
   At 2 a.m., RVR again, broke with dilt 10 mg IV x 1. PO dilt changed to
   180 mg PO bid.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-8**] 12:00 AM
   Diltiazem - [**2162-3-8**] 02:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-8**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 75 (75 - 133) bpm
   BP: 118/47(65) {105/45(61) - 155/80(96)} mmHg
   RR: 22 (17 - 33) insp/min
   SpO2: 90%
   Heart rhythm: A Flut (Atrial Flutter)
                  Total In:
                                                                    340 mL
                                                                    120 mL
   PO:
                                                                    340 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    152 mL
   Urine:
                                                                  1,080 mL
                                                                    152 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///45/
   Physical Examination
   HEENT: dry mm, clear op
   NECK: elevated JVP, no masses, no LAD
   CV:  irregular,  borderline tachycardia, no heave
   LUNGS: poor air movement at bases, very faint expiratory wheezes R>L in
   upper lobes, able to complete full sentences but short of breath, no
   accessory muscle use
   ABD: soft, ntnd, + bs
   EXT: no significant edema
   SKIN:  no rashes well healing ulcer on L foot consistent with recent
   BCC removal
   Neurologic: axo x 3, cooperative
   GU: foley
   Labs / Radiology
   262 K/uL
   12.5 g/dL
   183 mg/dL
   1.1 mg/dL
   45 mEq/L
   4.4 mEq/L
   48 mg/dL
   96 mEq/L
   146 mEq/L
   39.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2162-3-8**]  04:23 AM
   WBC
   11.4
   Hct
   39.6
   Plt
   262
   Cr
   1.1
   Glucose
   183
   Other labs: Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ATRIAL FIBRILLATION (AFIB)
   89-year-old with diastolic CHF, HTN, recently diagnosed COPD presented
   with asymptomatic oxygen desaturation from nursing home.
   .
   # Hypoxia: oxygen saturation 84% on 4L at nursing home.  Hypoxia
   persists.  Patient has been asymptomatic. Might be due to flash
   pulmonary edema secondary to afib with RVR, COPD exacerbation, mucus
   plugging (but history or evidence of no secretions or coughs),
   pneumonia (but no fever, no cough, no new leukocytosis, CXR with
   persistent R base opacity but possibly due to atelectasis), aspiration.
   Unlikely to be ACS given negative trop and no ischemic changes on ECG.
   PE is a possibility; recent CTA negative for PE and patient with
   therapeutic INR on Coumadin.
   - supplemental oxygen as needed; will wean down if tolerated (goal 88%
   -92%)
   - treat afib with RVR as below
   - nebs prn
   - start prednisone 60 mg po daily
   - hold antibiotic for now; check sputum
   - outpatient PFTs
   - hold diuresis given low uop this morning and no improvement with
   diuresis
   - send alpha-1 antitrypsin level
   - pending current work up would consider ECHO with bubble to assess for
   shunt
   .
   # Afib with RVR: unclear trigger; rate better controlled INR
   therapeutic.
   - diltiazem changed to 90 mg qid today
   - continue warfarin
   - monitor INR daily
   .
   # Low UOP: in setting of recent diuresis; decrease UOP to 35cc in three
   hours.
   - encourage po intake
   - discontinue lasix
   - check pm lytes and consider
 NS if needed
   # dCHF: No distinct crackles on exam. Volume status difficult to assess
   given poor air movement and elevated JVP due to tricuspid rehab. No
   clear evidence of significant heart failure now. BNP 4000 now but 6500
   last week.
   - hold lasix today as low uop
   .
   # HTN:
   - continue dilt and lisinopril
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: therapeutic INR, H2 blocker
   # ACCESS: PIV
   # CODE:  presumed full will discuss with patient and her son today
   # CONTACT:  [**Name (NI) 528**] [**Known lastname 11970**] [**Telephone/Fax (1) 11971**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-3-7**] 11:57 AM
   18 Gauge - [**2162-3-7**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2162-03-08 10:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   89 yo female w/ COPD, pHTN, CHF, all exacerbated by afib. Re-admitted
   w/ hypoxemic, hypercarbic resp distress.
   24 Hour Events:
                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-3-8**] 12:00 AM
   Diltiazem - [**2162-3-8**] 02:33 AM
   Other medications:
   coumadin, lisinopril, RISS, Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-8**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 97 (75 - 133) bpm
   BP: 120/49(63) {105/45(61) - 155/80(96)} mmHg
   RR: 23 (17 - 33) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    340 mL
                                                                    120 mL
   PO:
                                                                    340 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    177 mL
   Urine:
                                                                  1,080 mL
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -740 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///45/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: O/P clear
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg, no RV heave,
   no murmurs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Wheezes :
   scattered exp, Diminished: throughout)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LLE bandaged, L outer heel wound c/d/i
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Rash: scattered ecchymoses
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   262 K/uL
   183 mg/dL
   1.1 mg/dL
   45 mEq/L
   4.4 mEq/L
   48 mg/dL
   96 mEq/L
   146 mEq/L
   39.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2162-3-8**]  04:23 AM
   WBC
   11.4
   Hct
   39.6
   Plt
   262
   Cr
   1.1
   Glucose
   183
   Other labs: PT / PTT / INR://2.1, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.6 mg/dL
   Fluid analysis / Other labs: UA- neg
   ABG ([**3-7**] am)- 7.34 / 86 /67
   BNP- 4000
   Imaging: CXR ([**3-7**])- elevated R hemidiaphragm, bibasilar effusions,
   large hiatal hernia
   CTA ([**3-2**])- emphysema, stable pulm nodules (sm), bilateral effusions,
   biapical scarring
   Echo ([**3-2**])- EF 55%, [**12-26**]+MR, 3+ TR, TR gradient 45-51, dilated RV,
   borderline fxn
   Microbiology: [**3-7**] Blood- pending
   Assessment and Plan
   89 yo female w/ COPD, pHTN, CHF, all exacerbated by afib. Re-admitted
   w/ hypoxemic, hypercarbic resp distress.
   1. Resp distress- multfiactorial; underlying COPD (? lifelong
   nonsmoker), pHTN, CHF; recent afib and RVR likely exacerbating pulm
   edema and resp decline
   -BIPAP intermittently for aid in ventilatory support
   -screen for A1AT
   -Atrovent MDI q 4 hours
   -prednisone 60 qday starting today
   -Will wean O2 as tolerated --> probably needs home O2
   -keep fluid balance even to slightly neg; recheck creat this pm
   -Incentive spirometry to be initiated
   2. Afib- rate controlled today
   -Dil PO and IV as needed
   -cont coumadin; follow INR
   3. Gen Care-
   -PT/OT
   -discuss goals of care/ code status
   ICU Care
   Nutrition:
   Comments: po intake
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2162-3-7**] 11:57 AM
   18 Gauge - [**2162-3-7**] 11:58 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   Overnight, has had improvement of the respiratory status and is
   currently comfortable on 4 liters nasal cannula
   Afebrile P: 100    BP:  133/55  Oxygen Saturation: 92 %  on 4 liters NC
   General: Awake, alert NAD
   Chest: Decreased breath sounds bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Ext:  no significant edema
   Labs: reviewed and as above
   CXR: Hyperinflation and linear atelectasis at the bases
   Assessment:
   1)      Respiratory Distress
   2)      COPD exacerbation
   Plan:
   1)      Albuterol/atrovent/prednisone
   2)      Hold diuresis for now as BUN rising significantly
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2162-3-8**] 19:16 ------

2162-03-09 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --code status changed to DNR/DNI
   --serum Na normalized
   --desatted to 70's while sleeping. Face tent added and sats stabilized
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-3-9**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 112 (85 - 112) bpm
   BP: 121/43(61) {101/38(55) - 154/114(125)} mmHg
   RR: 19 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    830 mL
                  PO:
                                                                    830 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    487 mL
                                                                    210 mL
   Urine:
                                                                    487 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    343 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///40/
   Physical Examination
   NECK: elevated JVP to 14cm
   CV:  irregularly irregular.
   LUNGS: poor air movement at bases, no wheezing.  Able to speak in full
   sentances, no accessory muscle use
   ABD: soft, ntnd, + bs
   EXT: no significant edema
   SKIN:  no rashes well healing ulcer on L foot consistent with recent
   BCC removal
   Neurologic: axo x 3, cooperative
   GU: foley
   Labs / Radiology
   262 K/uL
   12.5 g/dL
   178 mg/dL
   1.2 mg/dL
   40 mEq/L
   4.5 mEq/L
   68 mg/dL
   96 mEq/L
   145 mEq/L
   39.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2162-3-8**]  04:23 AM
                             [**2162-3-9**]  05:39 AM
   WBC
   11.4
   Hct
   39.6
   Plt
   262
   Cr
   1.1
   1.2
   Glucose
   183
   178
   Other labs: PT / PTT / INR:20.6/37.8/1.9, Ca++:9.3 mg/dL, Mg++:2.6
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   89-year-old with diastolic CHF, HTN, recently diagnosed COPD presented
   with asymptomatic oxygen desaturation from nursing home.
   .
   # Hypoxia: Secondary to underlying chronic lung disease exacerbated by
   flash pulm edema in setting of Afib with RVR. Currently O2 sats stable
   on 2L  via NC.
   - supplemental oxygen as needed; will wean down as tolerated (goal 88%
   -92%)
   - albuterol/atrovent nebs standing- switch to q3 hours and prn as well
   - prednisone x 5 days at 60mg daily then taper.
   - suggest outpatient PFTs
   - f/u alpha-1 antitrypsin level- pending
   .
   # Afib with RVR: Rate controlled on diltiazem. INR slightly
   subtherapeutic.
   - Change from short acting to long acting diltiazem (total 360mg daily)
   - increase warfarin from three times per week to four times per week
   - monitor INR daily
   .
   # Low UOP: UOP increased overnight. Fluid balance slightly negative
   - encourage po intake
   - cont hold diuretics for now
   .
   # dCHF: Euvolemic on exam. Holding furosemide. (especially given
   increase in BUN/Cr today)
   .
   # HTN: BP stable
   - continue diltiazem and lisinopril
   .
   # FEN: replete lytes prn / regular diet
   # PPX: warfarin, H2 blocker
   # ACCESS: PIV
   # CODE:  DNR/DNI (confirmed with patient and family)
   # CONTACT:  [**Name (NI) 528**] [**Known lastname 11970**] [**Telephone/Fax (1) 11971**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-3-7**] 11:57 AM
   18 Gauge - [**2162-3-7**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, has had improvement of the respiratory status and is
   currently comfortable on 4 liters nasal cannula
   T: 98.2 P: 112    BP:  121/43 Oxygen Saturation: 97 %  on 2 liters NC
   General: Awake, alert NAD
   Chest: Decreased breath sounds bilaterally
   Heart: S1 S2 reg
   Abd: Soft, NT ND
   Ext:  no significant
   Labs: reviewed and as above
 WBC 11 (unchanged)
   Assessment:
   1)      COPD exacerbation
   2)      Atrial Fibrillation
   3)      Acute Renal Failure
 rising BUN
   Plan:
   1)      Albuterol/atrovent
   2)      Prednisone
   3)      Continue diltiazem
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2162-3-9**] 04:39 PM ------